US06171756B2
N-[1-(2-Nitrophenyl)-1-Ethoxycarbonyl]-N-Methyl-N-Phenylamine Ib
N-[1-(2-Nitrophenyl)-1-ethoxycarbonyl]-N-phenylamine Ia (1.0 g; 3.4 mmol) in dry dimethylformamide (10 ml) was added to a slurry of sodium hydride (80% w/w; 0.19 g; 3.5 mmol) in dry dimethylformamide (20 ml) under an inert atmosphere. The mixture was stirred at room temperature for 15 min and then methyl iodide (2.1 ml; 34.9 mmol) was added over a period of 10 min. The reaction mixture was warmed to 50° C. and at this temperature for a further 30 min. The precipitate of sodium iodide was filtered off and the solvent was removed by evaporation under vacuum to give a viscous oil, which was purified by flash chromatography on silica, eluting with dichloromethane, to afford the required compound as a colourless solid. Recrystallization from toluene gave colourless crystals (0.9 g; 86% yield), mp 62-63° C.

reactant | N-[1-(2-Nitrophenyl)-1-ethoxycarbonyl]-N-phenylamine | [N+](=O)([O-])C1=C(C=CC=C1)C(C)OC(=O)NC1=CC=CC=C1 | C15H14N2O4
reactant | sodium hydride | 3.5 mmol, 0.19 g | [H-].[Na+]
reactant | methyl iodide | 34.9 mmol, 2.1 ml | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[1-(2-Nitrophenyl)-1-Ethoxycarbonyl]-N-Methyl-N-Phenylamine | 86% yield | [N+](=O)([O-])C1=C(C=CC=C1)C(C)OC(=O)N(C1=CC=CC=C1)C | C16H16N2O4
